*Xyce Common Source Circuit
** library calling


*****************
** main netlist
*****************
.param volt = -3.3
V1 in 0 dc {volt} ac 1
R1 in out 1G
dn1 out 0 diode_nd2ps_03v3 AREA={10u*10u}

.meas AC freq when Vdb(out)=-3
*.meas AC C param = {1/(2*3.141592653589793238*freq*1000000000)}

*****************
** Analysis
*****************
*.control
.ac dec 10 1 10G
.step volt -12.13 1.13 0.13

.include "../../../design.spice"
.lib "../../../sm141064.spice" diode_typical

.end


